US04665054
Na -t-butyloxycarbonyl-Ne -benzyloxycarbonyl-L-lysine was dissolved in ethyl acetate and esterified with p-nitrophenol using dicyclohexylcarbodiimide as a coupling agent. Sodium bicarbonate (10%) was added and the product extracted into the organic layer and crystallized from solution, then added to aqueous ammonium hydroxide to form Na -t-butyloxycarbonyl-Ne -benzyloxycarbonyl-L-lysine amide.

reactant | benzyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCN)C(=O)O | C14H20N2O4
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyloxycarbonyl-L-lysine amide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCN)C(=O)N | C14H21N3O3
